US08685969B2
7. 2-(3-(7-Acetyl-4-carbamoyl-5H-pyridazino [4,5-b]indol-1-yl)-2-methylphenylcarbamoyl)-4-methoxybenzoic acid
A mixture of 7-acetyl-1-(3-amino-2-methylphenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide (0.250 g, crude product from the previous step), 2-formyl-5-methoxybenzoic acid (0.251 g, 1.391 mmol), sodium triacetoxyborohydride (0.442 g, 2.087 mmol), and acetic acid (0.100 mL, 1.739 mmol) in dichloromethane (18 mL) and tetrahydrofuran (18 mL) was stirred at room temperature for 3 hr. Additional sodium triacetoxyborohydride (0.442 g, 2.087 mmol) was added and the reaction mixture was stirred at rt. Three hours later, another portion of sodium triacetoxyborohydride (0.442 g, 2.087 mmol) was added, and the mixture was stirred at room temperature overnight. The reaction was quenched with water (30 mL) and the mixture was extracted with ethyl acetate (4×40 mL). The combined extract was dried over anhydrous MgSO4. Removal of solvent under vacuum provided the crude desired product (0.336 g) as a beige solid.

reactant | 7-acetyl-1-(3-amino-2-methylphenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide | C(C)(=O)C=1C=CC=2C3=C(NC2C1)C(=NN=C3C3=C(C(=CC=C3)N)C)C(=O)N | C20H17N5O2
reactant | 2-formyl-5-methoxybenzoic acid | 1.391 mmol, 0.251 g | C(=O)C1=C(C(=O)O)C=C(C=C1)OC | C9H8O4
reactant | sodium triacetoxyborohydride | 2.087 mmol, 0.442 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.739 mmol, 0.100 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.087 mmol, 0.442 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 2.087 mmol, 0.442 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
product | 2-(3-(7-Acetyl-4-carbamoyl-5H-pyridazino [4,5-b]indol-1-yl)-2-methylphenylcarbamoyl)-4-methoxybenzoic acid | 0.336 g | C(C)(=O)C=1C=CC=2C3=C(NC2C1)C(=NN=C3C=3C(=C(C=CC3)NC(=O)C3=C(C(=O)O)C=CC(=C3)OC)C)C(N)=O | C29H23N5O6
